US04559354
A mixture of 11.5 g of 4-acetyl-1,5-dimethyl-2-(4-hydroxyphenyl)-1H-imidazole, 13.8 g of potassium carbonate, 7.0 g of epichlorohydrin and 120 ml of dimethylformamide is stirred for 20 hours in a bath at 60°-70°. The insoluble material is filtered off, the filtrate is concentrated by evaporation and the residue is divided between ethyl acetate and water. From the organic phase there is obtained, by concentration by evaporation, an oil which is chromatographed on silica gel with ethyl acetate. 4-acetyl-1,5-dimethyl-2-[4-(2,3-epoxypropoxy)-phenyl]-1H-imidazole is obtained from the first six fractions eluted in the form of a yellow oil.

reactant | 4-acetyl-1,5-dimethyl-2-(4-hydroxyphenyl)-1H-imidazole | 11.5 g | C(C)(=O)C=1N=C(N(C1C)C)C1=CC=C(C=C1)O | C13H14N2O2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 7.0 g | C(Cl)C1CO1 | C3H5ClO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-acetyl-1,5-dimethyl-2-[4-(2,3-epoxypropoxy)-phenyl]-1H-imidazole | C(C)(=O)C=1N=C(N(C1C)C)C1=CC=C(C=C1)OCC1CO1 | C16H18N2O3
